US07271130B2
2-(3,5-Dichlorophenoxy)-3-methoxy-N-(3-methylbut-1-yn-3-yl)propionamide was prepared in a similar way to 2-(3,5-dichlorophenoxy)-3-methoxy-N-(4-methylpent-2-yn-4-yl)propionamide as described in Example 1 except that 3-amino-3-methylbut-1-yne (commercially available as 90% aqueous solution) was used in place of 4-amino-4-methyl pent-2-yne in Stage 4.

reactant | 2-(3,5-dichlorophenoxy)-3-methoxy-N-(4-methylpent-2-yn-4-yl)propionamide | ClC=1C=C(OC(C(=O)NC(C#CC)(C)C)COC)C=C(C1)Cl | C16H19Cl2NO3
reactant | 3-amino-3-methylbut-1-yne | NC(C#C)(C)C | C5H9N
reactant | 4-amino-4-methyl pent-2-yne | NC(C#CC)(C)C | C6H11N
product | 2-(3,5-Dichlorophenoxy)-3-methoxy-N-(3-methylbut-1-yn-3-yl)propionamide | ClC=1C=C(OC(C(=O)NC(C#C)(C)C)COC)C=C(C1)Cl | C15H17Cl2NO3
